US09255089B2
2-Chloro-4-(3,5-dimethylisoxazol-4-yl)-N-(2,2,2-trifluoroethyl)aniline (200 mg, 0.66 mmol) was dissolved in dichloromethane (10 mL) and acetonitrile (10 mL) and cooled to 0° C. under argon. To reaction mixture was added 0.5M nitronium tetrafluoroborate (1.84 ml) slowly over 20 minutes. Reaction mixture was stirred at 0° C., for 1 hour and allowed to warm to room temperature. After 3 hours, the reaction mixture was cooled to 0° C. again and 0.5M nitronium tetrafluoroborate in sulfolane (1.84 ml) was added and the reaction solution was stirred at room temperature overnight. Reaction solvents were removed under reduced pressure and the residue taken up in EtOAc and the solution was washed with aq. NaHCO3, then water, brine and dried over sodium sulfate. Solvents were removed under reduced pressure to yield a dark red oil/liquid. This material was dissolved in 2 mL of ethanol and 2 mL of acetic acid. To the solution was added Zinc dust and suspension was stirred. After 30 minutes of stirring the zinc dust was filtered off and the solvents were removed under reduced pressure. The residue was dissolved in EtOAc and the solution was washed with aq. NaHCO3, then water, brine and dried over sodium sulfate. Solvent was removed and the crude residue was purified by silica gel chromatography (Hexanes/EtOAc as the eluent) to afford 6-chloro-4-(3,5-dimethylisoxazol-4-yl)-N1-(2,2,2-trifluoroethyl)benzene-1,2-diamine as a light colored oil.

reactant | 2-Chloro-4-(3,5-dimethylisoxazol-4-yl)-N-(2,2,2-trifluoroethyl)aniline | 0.66 mmol, 200 mg | ClC1=C(NCC(F)(F)F)C=CC(=C1)C=1C(=NOC1C)C | C13H12ClF3N2O
reactant | acetonitrile | 10 mL | C(C)#N | C2H3N
reactant | nitronium tetrafluoroborate | 0.5M, 1.84 ml | F[B-](F)(F)F.O=[N+]=O
reactant | nitronium tetrafluoroborate | 0.5M | F[B-](F)(F)F.O=[N+]=O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | sulfolane | 1.84 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
catalyst | Zinc | [Zn] | Zn
product | 6-chloro-4-(3,5-dimethylisoxazol-4-yl)-N1-(2,2,2-trifluoroethyl)benzene-1,2-diamine | ClC=1C=C(C=C(C1NCC(F)(F)F)N)C=1C(=NOC1C)C | C13H13ClF3N3O
